US07396943B2
Part D: 2-(4-Formylphenoxy)thiazole-5-carboxamide
Dissolve 2-chlorothiazole-5-carboxamide (0.771 g, 4.78 mmol) and 4-hydroxybenzaldehyde (0.584 g, 4.78 mmol) in DMF (15.9 mL). Add K2CO3 (1.651 g, 11.95 mmol) and heat at 100° C. for 2 hours. Concentrate the reaction mixture. Take the solid up in dichloromethane:methanol (5:1). Add ethyl acetate to precipitate out a white solid. Filter and collect the solid as the title compound: 1H NMR (DMSO): 10.00 (s, 1H), 8.11 (s, 1H), 8.02 (d, J=8.4 Hz, 2H), 7.94 (s, 1H), 7.59 (d, J=8.8 Hz, 2H), 7.41 (s, 1H); HPLC [YMC-Pro pack C-18 (150×4.6 mm, S-5 microm), 0.05% TFA/acetonitrile in 0.05% TFA/water at 1.0 mL/min, 10-20% over 5 min, 20-95% over 18], tR=11.4 min, 98.2% purity.

reactant | 2-chlorothiazole-5-carboxamide | 4.78 mmol, 0.771 g | ClC=1SC(=CN1)C(=O)N | C4H3ClN2OS
reactant | 4-hydroxybenzaldehyde | 4.78 mmol, 0.584 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 11.95 mmol, 1.651 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15.9 mL | CN(C)C=O | C3H7NO
product | 2-(4-Formylphenoxy)thiazole-5-carboxamide | C(=O)C1=CC=C(OC=2SC(=CN2)C(=O)N)C=C1 | C11H8N2O3S
